US04659706
3-Acetyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine (1 g, 0.003 m) in 48% hydrobromic acid (15 ml) was heated to reflux for 16 hours and concentrated in vacuo. The residue was triturated with acetone and recrystallized from methanol-water to give 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrobromide, m.p. 300° (decomp.).

reactant | 3-Acetyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1 g | C(C)(=O)N1CCC2=C(CC1)C=C(C(=C2)S(=O)(=O)C)OC | C14H19NO4S
reactant | hydrobromic acid | 15 ml | Br | BrH
product | 8-hydroxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrobromide | Br.OC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C | InChI=1S/C11H15NO3S.BrH/c1-16(14,15)11-7-9-3-5-12-4-2-8(9)6-10(11)13;/h6-7,12-13H,2-5H2,1H3;1H
